US05272128
Diisopropyl P-[[(2-(difluoromethyoxy)-6-methylphenyl)sulfonyloxy]methyl]phosphonate (Compound 129)
A solution of 20 ml of ether, 8.6 g of diisopropyl P-(hydroxymethyl)phosphonate, prepared in Example 17, and 6.9 ml of triethylamine was added dropwise over 25 minutes to 15.2 g of crude 2-methyl-6-(difluoromethoxy)benzenesulfonyl chloride, prepared in Example 3, in 70 ml of ether. After the mild exotherm, the reaction was allowed to stir overnight at room temperature and was then diluted with 200 ml of ethyl acetate, the resulting ethyl acetate solution washed with two 80 ml portions of water, dried with magnesium sulfate, filtered, and concentrated to yield 10.2 g of the very crude desired product as a black oil. The crude product was dissolved in 10 ml of methylene chloride and flash chromatographed on Merck silica gel using ethyl acetate and hexanes. After combining similar fractions, the desired product was isolated as an amber oil in low yield.

reactant | diisopropyl P-(hydroxymethyl)phosphonate | 8.6 g | OCP(OC(C)C)(OC(C)C)=O | C7H17O4P
reactant | triethylamine | 6.9 ml | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-6-(difluoromethoxy)benzenesulfonyl chloride | CC1=C(C(=CC=C1)OC(F)F)S(=O)(=O)Cl | C8H7ClF2O3S
solvent | ether | 70 ml | CCOCC | C4H10O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | ether | 20 ml | CCOCC | C4H10O
product | Diisopropyl P-[[(2-(difluoromethyoxy)-6-methylphenyl)sulfonyloxy]methyl]phosphonate | FC(OC1=C(C(=CC=C1)C)S(=O)(=O)OCP(OC(C)C)(OC(C)C)=O)F | C15H23F2O7PS
